US07855285B2
The sodium salt of 2-chloro-6-(2-isopropylimidazol-1-yl)purine (0.132 g, 0.5 mmol) in dried CH3CN (10 mL) was treated with 2-deoxy-3,5-di-O-(p-toluoyl)-α-D-erythro-pentofuranosyl chloride (0.334 g, 0.86 mmol) in CH2Cl2 (10 mL) by general method 2 for 1 h (reaction complete, TLC). Sampling of the reaction mixture at the end of the reaction time showed no α-nucleoside by 1H NMR (500 MHz). The residue was chromatographed (25 g silica gel, EtOAc/hexanes˜1:1) to give 2-chloro-9-[2-deoxy-3,5-di-O-(p-toluoyl)-β-D-erythro-pentofuranosyl]-6-(2-isopropylimidazol-1-yl)purine (quantitative). Recrystallization (EtOAc) gave the compound (0.22 g, 70%): UV (MeOH) max 223, 241, 285 nm (∈ 32 100, 35 400, 14 800), min 230, 265 nm (∈ 30 300, 9200); 1H NMR (500 MHz, CDCl3) δ 8.42 (d, J=1.0 Hz, 1H), 8.26 (s, 1H), 7.99 (d, J=7.8 Hz, 2H), 7.85 (d, J=8.3 Hz, 2H), 7.30 (d, J=7.8 Hz, 2H), 7.20 (d, J=8.8 Hz, 2H), 7.11 (d, J=1.0 Hz, 1H), 6.60 (t, J=6.8 Hz, 1H), 5.81 (br s, 1H), 4.78-4.83 (m, 1H), 4.67-4.71 (m, 2H), 4.08 (sept, J=6.8 Hz, 1H), 2.97-3.01 (m, 2H), 2.46 (s, 3H), 2.37 (s, 3H), 1.43 (d, J=6.8 Hz, 3H), 1.41 (d, J=6.8 Hz, 3H); 13C NMR (125 MHz, CDCl3) δ 166.05, 165.99, 156.18, 154.20, 153.21, 148.15, 144.72, 144.40, 142.25, 129.88, 129.55, 129.36, 129.33, 128.82, 126.44, 126.26, 123.00, 120.38, 85.23, 83.59, 74.93, 63.87, 38.63, 28.81, 21.78, 21.61; HRMS 77/z 637.1931 (MNa+[C32H31ClN6O5Na=637.1942]).

reactant | sodium | [Na] | Na
reactant | 2-chloro-6-(2-isopropylimidazol-1-yl)purine | 0.5 mmol, 0.132 g | ClC1=NC(=C2NC=NC2=N1)N1C(=NC=C1)C(C)C | C11H11ClN6
reactant | 2-deoxy-3,5-di-O-(p-toluoyl)-α-D-erythro-pentofuranosyl chloride | 0.86 mmol, 0.334 g | C1(=CC=C(C=C1)C(=O)O[C@H]1C[C@H](O[C@@H]1COC(=O)C1=CC=C(C=C1)C)Cl)C | C21H21ClO5
solvent | CH3CN | 10 mL | CC#N | C2H3N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-chloro-9-[2-deoxy-3,5-di-O-(p-toluoyl)-β-D-erythro-pentofuranosyl]-6-(2-isopropylimidazol-1-yl)purine | ClC1=NC(=C2N=CN(C2=N1)[C@H]1C[C@H](OC(=O)C2=CC=C(C=C2)C)[C@H](O1)COC(=O)C1=CC=C(C=C1)C)N1C(=NC=C1)C(C)C | C32H31ClN6O5
